US04616014
Potassium salt of 5-methyl-6-phenyl1,2,4-triazin-3(2H)-one (20 g) was dissolved in methanol (200 ml). Methyl iodide (37.8 g) was added thereto, and the solution was refluxed for 2.5 hours, and evaporated under reduced pressure. The resultant residue was washed with water and dissolved in chloroform. The solution was washed with water, dried over magnesium sulfate and concentrated to dryness. The residue was washed with ethyl acetate and dried to give 2,5-dimethyl-6-phenyl-1,2,4-triazin-3(2H)-one (12.11 g).

reactant | Potassium | [K] | K
reactant | 5-methyl-6-phenyl1,2,4-triazin-3(2H)-one | 20 g | CC1=NC(NN=C1C1=CC=CC=C1)=O | C10H9N3O
reactant | Methyl iodide | 37.8 g | CI | CH3I
solvent | methanol | 200 ml | CO | CH4O
product | 2,5-dimethyl-6-phenyl-1,2,4-triazin-3(2H)-one | 12.11 g | CN1N=C(C(=NC1=O)C)C1=CC=CC=C1 | C11H11N3O
